US08877815B2
To a solution of (S)-2-(tert-butoxycarbonylamino)-3-(3′-methylbiphenyl-4-yl)propanoic acid (1.37 g, 3.85 mmol) in THF (25 mL) were added ethyl chloroformate (0.407 mL, 4.24 mmol) and triethylamine (0.591 mL, 4.24 mmol) at room temperature. After being stirred for 0.5 hours, the resultant precipitate was removed by filtration. The filtrate was treated with ammonium hydroxide (10 mL) and stirred for 1.5 hours at room temperature. The reaction mixture was diluted with EtOAc and washed with H2O and brine. The organic layer was dried over Na2SO4 and concentrated under reduced pressure. The obtained residue was dissolved in THF (25 mL). TFAA (0.817 mL, 5.81 mmoL) and pyridine (0.935 mL, 11.56 mmol) were added at −10° C. and stirred for 2 hours. The reaction was quenched with saturated NaHCO3 aqueous solution. The mixture was extracted with EtOAc and washed with brine. The organic layer was dried over Na2SO4, concentrated under reduced pressure, and purified by silica gel flash column chromatography (EtOAc/heptane) to give (S)-tert-butyl 1-cyano-2-(3′-methylbiphenyl-4-yl)ethylcarbamate. 1H NMR (400 MHz, CDCl3) δ 1.45 (s, 9H), 2.42 (s, 3.04-3.19 (m, 2H), 4.68-4.94 (m, 2H), 7.17 (d, J=7.58 Hz, 1H), 7.31-7.41 (m, 5H), 7.59 (d, J=8.08 Hz, 2H); MS: m/z (MH+) 337; Retention time=1.60 min. (condition A).

reactant | (S)-2-(tert-butoxycarbonylamino)-3-(3′-methylbiphenyl-4-yl)propanoic acid | 3.85 mmol, 1.37 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)C1=CC(=CC=C1)C | C21H25NO4
reactant | ethyl chloroformate | 4.24 mmol, 0.407 mL | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 4.24 mmol, 0.591 mL | C(C)N(CC)CC | C6H15N
reactant | TFAA | 0.817 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | pyridine | 11.56 mmol, 0.935 mL | N1=CC=CC=C1 | C5H5N
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (S)-tert-butyl 1-cyano-2-(3′-methylbiphenyl-4-yl)ethylcarbamate | C(#N)[C@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)C)NC(OC(C)(C)C)=O | C21H24N2O2
